$port device
* This netlist tests XDM translations from HSPICE of
* P-element device and the .LIN directive. If the 
* translation works correctly, the dc and ac instance
* parameters of PIN ought to be removed, the noisecalc
* parameter of the .LIN ought to be removed and the
* print statement should be commented out, since 
* these are not yet implemented in Xyce. 
  
L1 1 2 1u
C2 2 3 1n
R3 3 0 1
PIN 1 0 port=1 z0=50 dc=0.5 ac=1
POUT 3 0 port=2

.AC DEC 10 1000 1G
.LIN SPARCALC=1 NOISECALC=1 
.PRINT AC
+ s11(r) s11(i) s12(r) s12(i) s21(r) s21(i) s22(r) s22(i)

.end
