$ temperature statement
* This netlist tests XDM HSPICE translation of
* multiple .TEMP statements. The .TEMP statements
* should be translated into a .STEP command, with 
* the various temperatures in a .DATA table
  
.temp -10 50

va 1 0 dc=0
r1 1 2 10
r2 2 0 10 tc=0.001

.dc va 0 10 1
.print dc v(1) v(2)

.temp 85
.temp 125
