$ single temperature statement
* This netlist tests XDM HSPICE translation of
* single .TEMP statements. The .TEMP statements
* should be translated into a .STEP command

va 1 0 dc=0
r1 1 2 10
r2 2 0 10 tc=0.001

.dc va 0 10 1
.print dc v(1) v(2)

.temp 85
